US04710515
To a hot (70° C.) solution of 10.0 g (0.0336 mole) of the known compound 4'-amino-3,5-di-tertiary-butyl-4-hydroxybiphenyl in 100 ml of glyme was added 5.0 g (0.044 mole) of glutaric anhydride. After stirring for one hour, the mixture was cooled and poured into water. The precipitate was separated by filtration and recrystallized from a chloroform-hexane mixture to provide tan needles of N-(3',5'-di-tertiary-butyl-4'-hydroxy-4-biphenylyl)-glutaramic acid, m.p. 217.5°-219° C. Analysis: Calculated for C25H33NO4 : % C, 73.0; % H, 8.1; % N, 3.4; Found: % C, 72.6; % H, 8.1; % N, 3.1.

reactant | 4'-amino-3,5-di-tertiary-butyl-4-hydroxybiphenyl | NC1=CC=C(C=C1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C20H27NO
reactant | glutaric anhydride | 0.044 mole, 5.0 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | water | O | H2O
solvent | glyme | 100 ml | C(OC)COC | C4H10O2
product | N-(3',5'-di-tertiary-butyl-4'-hydroxy-4-biphenylyl)-glutaramic acid | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=CC=C(C=C1)NC(CCCC(=O)O)=O | C25H33NO4
